Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, Wound Eval 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a ___ male with
hx of pulmonary fibrosis, s/p basal cell resection on R forehead
(___) who presents with dyspnea. Pt gets the majority of 
his
care at ___ but was referred in from urgent care today for
concern of osteomyelitis of the skull and SOB.  Pt tells a
somewhat inconsistent history however per his report, he has
chronic SOB which he doesn't think is particularly worse than
usual, he is unsure how long it has been present for.  Denies
chest pain, cough.  He is unable to walk more than 50 feet
without getting short of breath and endorses worsening fatigue. 
He does use a walker at home but does not need home O2.  He also
endorses dysuria x years He was also noted to have dense right
facial droop including the eye which the patient and his wife
states began after he had his tumor resection.  He also tells me
that he had a fall recently, states he hit his head and states
that was what led to the lesion on his head but is unable to
describe any circumstances surrounding the fall

In the ED, initial vitals were: 97.6 92 140/83 18 100% RA. Labs
were notable for glucose of 67, crit 39.7, Pt was given 1L NS. 
CXR showed no acute CP process.  EKG showed NSR with 
non-specific
ST changes in lateral leads.  Pt was admitted to medicine for
further ___, FTT, and wound care management.

On the floor, pt has no specific complaints.  Tells me that he
has not had follow up for wound care of the scalp lesion, is
applying Vaseline daily.  He states he has been eating less
recently but is unsure if he has lost weight.  
 
Past Medical History:
-hypertension
-remote hx of alcohol dependence
-hearing loss
-squamous cell cancer
-basal cell carcinoma
-pulmonary fibrosis
-? prostate ca
-BPH
-diverticulitis
-insomnia
 
Social History:
___
Family History:
Father with
CAD/PVD/HTN/MI
 
Physical Exam:
Admission Exam:
Constitutional: Cachectic, unkempt appearing, alert, oriented to
date, not to year (___), thinks he is at the ___ 
EYES: Sclera anicteric,  EOMI, cloudy R lens
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox1, R-sided facial droop, tongue deviates to the left,
HOH, ___ strength throughout upper and lower extremities
SKIN: approx. 5 cm open wound on caput, with exposed bone and
crusted blood.  No drainage or surrounding erythema. 

 
Pertinent Results:
___ 06:05AM BLOOD WBC-7.3 RBC-3.76* Hgb-10.7* Hct-32.2* 
MCV-86 MCH-28.5 MCHC-33.2 RDW-13.2 RDWSD-40.7 Plt ___
___ 06:20AM BLOOD WBC-4.3 RBC-3.88* Hgb-11.0* Hct-33.7* 
MCV-87 MCH-28.4 MCHC-32.6 RDW-13.2 RDWSD-41.2 Plt ___
___ 06:23AM BLOOD WBC-4.4 RBC-3.70* Hgb-10.5* Hct-32.5* 
MCV-88 MCH-28.4 MCHC-32.3 RDW-13.4 RDWSD-43.2 Plt ___
___ 04:00PM BLOOD WBC-6.3 RBC-4.53* Hgb-13.0* Hct-39.7* 
MCV-88 MCH-28.7 MCHC-32.7 RDW-13.3 RDWSD-42.6 Plt ___
___ 04:00PM BLOOD ___ PTT-30.3 ___
___ 06:05AM BLOOD Glucose-104* UreaN-12 Creat-0.7 Na-142 
K-4.0 Cl-103 HCO3-27 AnGap-12
___ 06:20AM BLOOD Glucose-85 UreaN-17 Creat-0.8 Na-142 
K-4.0 Cl-105 HCO3-29 AnGap-8*
___ 06:23AM BLOOD Glucose-66* UreaN-20 Creat-0.7 Na-144 
K-4.1 Cl-103 HCO3-25 AnGap-16
___ 04:00PM BLOOD Glucose-67* UreaN-21* Creat-0.8 Na-141 
K-4.7 Cl-99 HCO3-28 AnGap-14
___ 04:00PM BLOOD ALT-10 AST-17 AlkPhos-83 TotBili-1.3
___ 06:23AM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD cTropnT-<0.01
___ 06:23AM BLOOD Calcium-8.5 Phos-2.9 Mg-1.9
___ 04:00PM BLOOD Albumin-4.1 Calcium-9.8 Phos-3.2 Mg-2.1
___ 06:23AM BLOOD TSH-1.3
___ 04:00PM BLOOD CRP-37.2*
___ 04:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:50PM BLOOD Lactate-1.8

CXR:
IMPRESSION:  
No acute cardiopulmonary process.  Stable chronic lung changes. 

MRI:
IMPRESSION:   
Limited MR imaging due to poor patient compliance which is also 
degraded by motion artifact.  
Within the marked limitations of the study there is no acute 
intracranial 
infarct or large mass.  
Generalized cerebral atrophy with associated ex vacuo dilatation 
of 
ventricular system.   
Nonspecific well-circumscribed T1 hyperintense right lateral 
periorbital 
lesion.  On limited imaging at the top of my differential 
diagnosis consider a periorbital dermoid cyst. 

 
Brief Hospital Course:
# R forehead wound: Plastic surgery saw the pt, and determined 
that he was not a good surgical candidate. They made wound 
dressing recommendations. He indicated that he was not 
interested in surgery or any other large procedures, and just 
wanted to go home. MRI performed At time of discharge, pt was 
planning on follow-up with ___ and his PCP. 

# Dyspnea: Pt with hx of pulmonary fibrosis and symptoms do not 
seem to be significantly worse than baseline. After being 
admitted, pt stated that he felt fine and was not concerned 
about his breathing. Pt maintained normal saturations on RA 
throughout admission and at time of d/c, will f/u w/ his 
outpatient doctors for this as needed. Pt notably refused ___ 
services while admitted. 

# Severe malnutrition/failure to thrive: Per wife, seems that pt
has continued to decline, esp in the recent ___, w/ wt loss
and increasing frailty. Pt not UTD on cancer screening, has 
known
elevated PSA, but wife explains that he wouldn't "want any of
that" (referring to work up or procedures) and just wants to be
home. During this admission, based on that, we attempted to 
minimize interventions while supporting pt to have quality of 
life. 

# R-sided facial droop: pt unable to state timeline for this,
however outpt records and wife's report suggest ___ began after
resection of SCC.  That said, distribution of deficit does does
not correspond with nerve injury that could have occurred with
surgical excision of lesion on caput, raising concern for 
central
pathology.  It does not appear that patient has had any imaging
since deficit was noted. MRI performed with cerebral atrophy but 
no evidence for stroke. 

# Fall: pt unable to provide details regarding his fall although
he does think that he hit his head.  Most likely mechanical 
given
pts deconditioned state.

#goals of care:  Pt was seen by plastic surgery and declined any 
surgical intervention. Pt's wife agreed with / endorsed pt's 
lack of interest in
aggressive measures, informed us of DNR/DNI status, and said she
merely wanted to get him home as soon as possible. They declined 
hospital bed. Initial plan was to go home with hospice but plans 
changed to home with ___ and bridge to hospice. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Finasteride 5 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1.  Finasteride 5 mg PO DAILY  
2.  Losartan Potassium 50 mg PO DAILY  
3.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
scalp wound s/p SCC excision
malnutrition
dyspnea 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

We admitted you to the hospital because you were having 
difficulty breathing. We also noticed that you have a wound on 
your scalp. We discussed with you various options for treating, 
and given that you are not currently interested in pursuing 
treatment for your wound at this time, you are now going home to 
continue care with your outpatient doctors and have ___ care 
with a bridge to hospice.  

We wish you the best with your health.

___ Medicine
 
Followup Instructions:
___